US08017775B2
6-(4-Fluoro-2-methoxyphenyl)-5-(2-methoxycarbonylmethylphenoxymethyl)-2,2,4-trimethyl -1,2-dihydroquinoline (Compound No. 14-1)
6-(4-Fluoro-2-methoxyphenyl)-5-hydroxymethyl-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 4-3, 100.1 mg, 0.31 mmol), methyl 2-hydroxyphenylacetate (76.1 mg, 0.46 mmol), tri-butylphosphine (114 μL, 0.46 mmol), and 1,1′-(azodicarbonyl)dipiperidine (117 mg, 0.46 mmol) were dissolved in anhydrous benzene (2 mL), and the mixture was stirred under argon atmosphere at room temperature for 1 hour. Hexane (5 mL) was added to the reaction mixture and unsoluble materials were filtered. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (107.1 mg) as a colorless amorphous product. (Yield 74%)

reactant | 6-(4-Fluoro-2-methoxyphenyl)-5-hydroxymethyl-2,2,4-trimethyl-1,2-dihydroquinoline | FC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CO)OC | C20H22FNO2
reactant | methyl 2-hydroxyphenylacetate | 0.46 mmol, 76.1 mg | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | tri-butylphosphine | 0.46 mmol, 114 μL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.46 mmol, 117 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
solvent | Hexane | 5 mL | CCCCCC | C6H14
product | 6-(4-Fluoro-2-methoxyphenyl)-5-(2-methoxycarbonylmethylphenoxymethyl)-2,2,4-trimethyl -1,2-dihydroquinoline | 107.1 mg, Yield 74% | FC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC1=C(C=CC=C1)CC(=O)OC)OC | C29H30FNO4
